US07291631B2
Using General Procedure B, reaction of [3-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-propyl]-carbamic acid tert-butyl ester, 3,5-dimethylpyridine-2-carboxaldehyde and NaBH(OAc)3 in CH2Cl2 gave {3-[(3,5-dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-carbamic acid tert-butyl ester as a pale beige sticky solid. 1H NMR (CDCl3) δ 1.75 (m, 4H), 2.18 (br t, 1H), 2.27 (s, 3H), 2.30 (s, 3H), 2.37 (br, 1H), 2.56 (t, 1H, J=10.5 Hz), 2.83 (m, 4H), 3.38 (br, 1H), 3.68 (d, 1H, J=15.0 Hz), 3.84 (br, 1H), 4.04 (d, 1H, J=15.0 Hz), 7.13 (m, 1H), 7.26 (s, 1H), 7.41 (d, 1H, J=7.0 Hz), 8.33 (s, 1H), 8.53 (d, 1H, J=4.5 Hz). Deprotection with TFA using General Procedure F gave N-(3,5-dimethyl-pyridin-2-yl)-N]-(5,6,7,8-tetrahydro-quinolin-8-yl)-propane-1,3-diamine as a white solid.

reactant | [3-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCNC1CCCC=2C=CC=NC12)=O | C17H27N3O2
reactant | 3,5-dimethylpyridine-2-carboxaldehyde | CC=1C(=NC=C(C1)C)C=O | C8H9NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {3-[(3,5-dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCN(C1CCCC=2C=CC=NC12)C1=NC=C(C=C1C)C)=O | C24H34N4O2
